US07335771B2
Dimethyl 2,5-bis{(4-methoxyphenyl)amino}cyclohexa-1,4-diene-1,4-dicarboxylate (6.58 gm, 15 mmol), the sodium salt of 3-nitrobenzenesulphonic acid (3.6 gm; 16 mmol), ethanol (90 ml) and 1.0M sodium hydroxide (50 ml) were heated to reflux overnight under a nitrogen atmosphere. The orange solution was allowed to cool and water (120 ml) was added. The mixture was acidified with conc. hydrochloric acid when a purple solid precipitated out. This material was filtered off, washed with water, then 25% ethanol/water and dried under vacuum over phosphorous pentoxide to give 6.0 gm (98%) of 2,5-bis{(4-methoxyphenyl)amino}terephthalic acid.

reactant | Dimethyl 2,5-bis{(4-methoxyphenyl)amino}cyclohexa-1,4-diene-1,4-dicarboxylate | 15 mmol, 6.58 gm | COC1=CC=C(C=C1)NC1=C(CC(=C(C1)C(=O)OC)NC1=CC=C(C=C1)OC)C(=O)OC | C24H26N2O6
reactant | sodium | [Na] | Na
reactant | 3-nitrobenzenesulphonic acid | 16 mmol, 3.6 gm | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O | C6H5NO5S
reactant | sodium hydroxide | 1.0M, 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 120 ml | O | H2O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 2,5-bis{(4-methoxyphenyl)amino}terephthalic acid | 6.0 gm, 98% | COC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C(=C1)C(=O)O)NC1=CC=C(C=C1)OC | C22H20N2O6
